US07166621B2
Step 1: Preparation of methyl 2-(5-cyano-3-pyridyloxy)butyrate
A solution of methyl 2-(5-bromo-3-pyridyloxy)butyrate (1.37 g) and copper (1) cyanide (0.67 g) in dry N-methylpyrollidin-2-one (5 ml) was stirred at 150° C. under an atmosphere of nitrogen for 3.25 hours then cooled to ambient temperature and stored for 18 hours. The mixture was diluted with water and extracted with ethyl acetate (four times). The extracts were combined, washed with water (three times), dried over magnesium sulphate and evaporated under reduced pressure to give a liquid which was fractionated by chromatography (silica; ethyl acetate) to give the required product, 0.29 g, as an orange oil.

reactant | methyl 2-(5-bromo-3-pyridyloxy)butyrate | 1.37 g | BrC=1C=C(C=NC1)OC(C(=O)OC)CC | C10H12BrNO3
reactant | copper (1) cyanide | 0.67 g | [Cu]C#N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrollidin-2-one | 5 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | methyl 2-(5-cyano-3-pyridyloxy)butyrate | C(#N)C=1C=C(C=NC1)OC(C(=O)OC)CC | C11H12N2O3
